US08809342B2
1-ethyl-3-(3-dimethylaminopropyl)carbodimide hydrochloride (154 mg, 0.801 mmol) was added to a solution of 4-butyrylbenzoic acid (154 mg, 0.801 mmol), methyl 3-aminopropanoate hydrochloride (90.8 mg, 0.881 mmol), 1-hydroxy-7-azabenzotriazole (109 mg, 0.801 mmol), and triethylamine (120 μL, 0.86 mmol) in dichloromethane (8.0 mL). The reaction was stirred at room temperature for 19 h. The reaction was diluted with dichloromethane and washed with water and brine. The organic layer was dried over magnesium sulfate, filtered, and concentrated. Purification by silica gel chromatography gave methyl 3-(4-butyrylbenzamido)propanoate (124.1 mg, 56%) as a colorless solid. 1H NMR (400 MHz, CDCl3) δ 7.99 (d, J=8.4 Hz, 2H), 7.83 (d, J=8.2 Hz, 2H), 6.89 (br. s., 1H), 3.69-3.77 (m, 5H), 2.95 (t, J=7.2 Hz, 2H), 2.66 (t, J=5.8 Hz, 2H), 1.71-1.82 (m, 2H), 1.00 (t, J=7.43 Hz, 3H. MS (M+1): 278.2.

reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodimide hydrochloride | 0.801 mmol, 154 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 4-butyrylbenzoic acid | 0.801 mmol, 154 mg | C(CCC)(=O)C1=CC=C(C(=O)O)C=C1 | C11H12O3
reactant | methyl 3-aminopropanoate hydrochloride | 0.881 mmol, 90.8 mg | Cl.NCCC(=O)OC
reactant | 1-hydroxy-7-azabenzotriazole | 0.801 mmol, 109 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | triethylamine | 0.86 mmol, 120 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 8.0 mL | ClCCl | CH2Cl2
product | methyl 3-(4-butyrylbenzamido)propanoate | 124.1 mg, 56% | C(CCC)(=O)C1=CC=C(C(=O)NCCC(=O)OC)C=C1 | C15H19NO4
